US20010029256A1
A mixture of 5-(3-mesyloxypropylidene)-10,11-dihydro-5H-dibenzo[a,d]cyclohepten (5.0 g, 15.2 mmol), ethyl 3-(4-hydroxyphenyl)-2-ethoxypropanoate (3.7 g, 15.5 mmol), potassium carbonate (2.9 g, 21 mmol) and dimethylformamide (10 ml) was heated at 100° C. for 5 h. Benzene (200 ml) and water (200 ml) were added and the phases were separated. The organic phase was dried and the solvent evaporated in vacuo. The residue was purified by chromatography on silica gel eluting with benzene/chlorofor m, to give first 2.5 g of 5-propenylidene-10,11-dihydro-5H-dibenzo (a,d)cyclohepten and then 1.5 g (21%) of the title compound as an oil. 1H NMR (250 MHz, CDCl3) δ7.10-7.35 (m, 10 H); 6.85 (d, 2 H); 6.06 (t, 1 H); 4.27 (q, 2 H); 4.07 (m, 3 H); 3.68 (m,1 H); 3.45 (m, 1 H); 3.17 (bs, 4 H); 3.06 (d, 2 H); 2.69 (q, 2 H); 1.27 (t 3 H); 0.99 (t, 3 H).

reactant | 5-(3-mesyloxypropylidene)-10,11-dihydro-5H-dibenzo[a,d]cyclohepten | 15.2 mmol, 5.0 g | S(=O)(=O)(C)OCCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C19H20O3S
reactant | ethyl 3-(4-hydroxyphenyl)-2-ethoxypropanoate | 15.5 mmol, 3.7 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C13H18O4
reactant | potassium carbonate | 21 mmol, 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | Benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-propenylidene-10,11-dihydro-5H-dibenzo (a,d)cyclohepten | 2.5 g | C(C=C)=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C18H16
